US06498169B1
Synthesis of 1-[[2-(4-Chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]-4-[N-[[2-(4-chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]-N-(4-methoxyphenyl)amino]piperidine Trihydrochloride
4-(p-Anisidino)-1-[[2-(4-chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]piperidine (271 mg) and 2-(4-chloro-3,5-dimethoxyphenyl)-4-chloromethylpyridine (173 mg) were condensed in the same manner as described in Example 9. The title compound was obtained as yellow powder after converting a free base to a trihydrochloride.

reactant | 4-(p-Anisidino)-1-[[2-(4-chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 271 mg | COC1=CC=C(C=C1)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)Cl)OC | C26H30ClN3O3
reactant | 2-(4-chloro-3,5-dimethoxyphenyl)-4-chloromethylpyridine | 173 mg | ClC1=C(C=C(C=C1OC)C1=NC=CC(=C1)CCl)OC | C14H13Cl2NO2
product | 1-[[2-(4-Chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]-4-[N-[[2-(4-chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]-N-(4-methoxyphenyl)amino]piperidine Trihydrochloride | Cl.Cl.Cl.ClC1=C(C=C(C=C1OC)C1=NC=CC(=C1)CN1CCC(CC1)N(C1=CC=C(C=C1)OC)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)Cl)OC)OC | InChI=1S/C40H42Cl2N4O5.3ClH/c1-47-32-8-6-30(7-9-32)46(25-27-11-15-44-34(19-27)29-22-37(50-4)40(42)38(23-29)51-5)31-12-16-45(17-13-31)24-26-10-14-43-33(18-26)28-20-35(48-2)39(41)36(21-28)49-3;;;/h6-11,14-15,18-23,31H,12-13,16-17,24-25H2,1-5H3;3*1H
